US07259183B2
Preparation of (2-chloro-4-cyclopropyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine
0.927 g of 2-chloro-4-cyclopropyl-benzaldehyde (5.37 mmol) and 1.52 g 2-(3-trifluoromethyl-phenyl)-ethylamine (8.05 mmol) were dissolved in 15 ml methanol and refluxed for 2 h. After cooling down to rt, the reaction mixture was treated in portions with 305 mg NaBH4, stirred at rt for 10 min and 12 h under reflux. The reaction mixture was then cooled to rt, treated with 1 ml 1N HCl and concentrated in vacuo. The resulting oil was then diluted with EtOAc, washed with water and brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography (40 g silicagel, heltane/AcOEt 2:1) leading to 1.41 g (2-chloro-4-cyclopropyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine (74%) as a yellow oil. MS: 354 (M+H)+.

reactant | 2-chloro-4-cyclopropyl-benzaldehyde | 5.37 mmol, 0.927 g | ClC1=C(C=O)C=CC(=C1)C1CC1 | C10H9ClO
reactant | 2-(3-trifluoromethyl-phenyl)-ethylamine | 8.05 mmol, 1.52 g | FC(C=1C=C(C=CC1)CCN)(F)F | C9H10F3N
reactant | NaBH4 | 305 mg | [BH4-].[Na+]
reactant | HCl | 1N, 1 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | (2-chloro-4-cyclopropyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine | ClC1=C(CNCCC2=CC(=CC=C2)C(F)(F)F)C=CC(=C1)C1CC1 | C19H19ClF3N
